US07504429B2
4′-benzyl 1-tert-butyl 3′-ethyl-5′-formyl-1H,1′H-2,2′-bipyrrole-1,4′-dicarboxylate
Following the procedures described in Example 5, replacing methyl 4-ethyl-2-formyl-5-iodo-1H-pyrrole-3-carboxylate with benzyl 4-ethyl-2-formyl-5-iodo-1H-pyrrole-3-carboxylate and 4-fluorophenylboronic acid with 1-(tert-butoxycarbonyl)-1H-pyrrol-2-ylboronic acid, the title compound was obtained. Proton NMR for the product was consistent with the title compound. HRMS (ES) exact mass calculated for C19H19N2O3 (M+H): 323.1390. Found 323.1384.

reactant | benzyl 4-ethyl-2-formyl-5-iodo-1H-pyrrole-3-carboxylate | C(C)C=1C(=C(NC1I)C=O)C(=O)OCC1=CC=CC=C1 | C15H14INO3
reactant | 4-fluorophenylboronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | 1-(tert-butoxycarbonyl)-1H-pyrrol-2-ylboronic acid | C(C)(C)(C)OC(=O)N1C(=CC=C1)B(O)O | C9H14BNO4
product | 4′-benzyl 1-tert-butyl 3′-ethyl-5′-formyl-1H,1′H-2,2′-bipyrrole-1,4′-dicarboxylate | C(C)C1=C(NC(=C1C(=O)OCC1=CC=CC=C1)C=O)C=1N(C=CC1)C(=O)OC(C)(C)C | C24H26N2O5
